US07812040B2
tert-Butyl [(cis-3-Hydroxycyclobutyl)methyl]carbamate.
(Boc)2O (8.6 g, 0.039 mol) was added to a solution of intermediate 28, cis-3-(Aminomethyl)cyclobutanol (4 g, 0.039 mol) and Et3N (11 mL, 0.077 mol) in 50 mL absolute THF under stirring. The mixture was stirred at room temperature for 1 h and evaporated. The residue was purified by chromatography (silica gel, 63-100μ, 100 g, CHCl3/MeOH 100:0→95:5) to give the title compound (5.15 g) as white crystals. 1H NMR-data (DMSO-d6): 6.61-6.87 (m, 1H, NH); 4.85 (br.s, 1H, OH); 3.77-3.92 (m, 1H); 2.90 (t, 2H, CH2, J=6.1 Hz); 2.10-2.22 (m, 2H); 1.67-1.80 (m, 1H); 1.21-1.51 (m, 11H, CH2, Boc).

reactant | (Boc)2O | 0.039 mol, 8.6 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | cis-3-(Aminomethyl)cyclobutanol | 0.039 mol, 4 g | NC[C@H]1C[C@H](C1)O | C5H11NO
reactant | Et3N | 0.077 mol, 11 mL | CCN(CC)CC | C6H15N
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | tert-Butyl [(cis-3-Hydroxycyclobutyl)methyl]carbamate | 5.15 g | O[C@H]1C[C@H](C1)CNC(OC(C)(C)C)=O | C10H19NO3
